US07863446B2
Synthesis of methyl 3-methoxy-4-({6-[4-(methylsulfonyl)phenyl]-5-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}oxy)benzoate
4-Chloro-5-(4-fluorophenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoro methyl)pyrimidine (0.5 g, 1.63 mmol), methyl vanillate (0.423 g, 2.33 mmol), potassium carbonate (0.24 g, 1.74 mmol) and acetonitrile (7 ml) were stirred at room temperature for 2 hours and subsequently the reaction mixture was refluxed for 6 hours. Further, potassium carbonate (0.08 g, 0.58 mmol) and vanillic ester (0.12 g, 0.66 mmol) were added to the reaction mixture and the refluxing was continued for another 4 hours. Subsequently the reaction mixture was poured onto ice-cold water, extracted with ethyl acetate (25 mL), and washed with brine solution. Evaporation of the organic layer yielded the required product. 1H-NMR (DMSO-d6) δ: 3.24 (s, 3H), 3.81 (s, 3H), 3.88 (s, 3H), 7.26-7.30 (m, 2H), 7.44 (d, 1H), 7.49-7.53 (m, 2H), 7.61-7.69 (m, 4H), 7.91 (d, 2H). MS m/z: 576.8 (M++1).

reactant | 4-Chloro-5-(4-fluorophenyl)-6-[4-(methylsulfonyl)phenyl]-2-(trifluoro methyl)pyrimidine | 1.63 mmol, 0.5 g | ClC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H11ClF4N2O2S
reactant | methyl vanillate | 2.33 mmol, 0.423 g | C(C1=CC(OC)=C(O)C=C1)(=O)OC | C9H10O4
reactant | potassium carbonate | 1.74 mmol, 0.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.58 mmol, 0.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | methyl 3-methoxy-4-({6-[4-(methylsulfonyl)phenyl]-5-(4-fluorophenyl)-2-(trifluoromethyl)pyrimidin-4-yl}oxy)benzoate | COC=1C=C(C(=O)OC)C=CC1OC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C27H20F4N2O6S
